US05686424
Using the procedure described in Example 5, treatment of L-proline-L-isoleucine benzylamide (200 mg, 0.63 mmol) with 4'-phenoxyethoxy-2-chloroacetophenone, (275 mg, 0.95 mmol, 1.5 eq; prepared from 4-(2-phenoxyethoxy)benzoic acid by the method described in example 1), provided 80 mg of L-isoleucine, N-[1-{2-oxo-2-[4-(2-phenoxyethoxy)-phenyl]-ethyl}-L-prolyl] benzylamide as a crystalline solid.

reactant | L-proline L-isoleucine benzylamide | 0.63 mmol, 200 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | 4'-phenoxyethoxy-2-chloroacetophenone | O(C1=CC=CC=C1)CCOC1=CC=C(C=C1)C(CCl)=O | C16H15ClO3
reactant | 4-(2-phenoxyethoxy)benzoic acid | O(C1=CC=CC=C1)CCOC1=CC=C(C(=O)O)C=C1 | C15H14O4
product | L-isoleucine, N-[1-{2-oxo-2-[4-(2-phenoxyethoxy)-phenyl]-ethyl}-L-prolyl] benzylamide | 80 mg | O=C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)C1=CC=C(C=C1)OCCOC1=CC=CC=C1 | C34H41N3O5
